US06599902B2
A mixture of (4-fluoro-piperidin-1-yl)-acetonitrile (0.480 mg, 3.2 mmol) in THF 92 mL0 was added to LAH (148 mg, 1.2 eq.) in THF (15 mL). The mixture was heated at 50° C. for 18 hours. The cooled reaction was quenched with NaOH solution until white solid precipitated out. The solid was filtered off and the filtrate was concentrated to give 335 mg (71%) of 2-(4-fluoro-piperidin-1-yl)-ethylamine.

reactant | (4-fluoro-piperidin-1-yl)-acetonitrile | 3.2 mmol, 0.480 mg | FC1CCN(CC1)CC#N | C7H11FN2
reactant | LAH | 148 mg, 1.2 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-fluoro-piperidin-1-yl)-ethylamine | 335 mg, 71% | FC1CCN(CC1)CCN | C7H15FN2
